US20010007764A1
Boc-D-Phe-Pro-OMe (8.3 g) was dissolved in dioxane/water 6/4 v/v (150 ml) and treated with 2M sodium hydroxide solution (16.5 ml) portionwise over 1 h at room temperature, keeping the pH at 12.5. 2M hydrogen chloride solution was added to the reaction mixture until pH 3.0 and the water layer was extracted with ethyl acetate. The combined organic phases were washed with water, brine and dried over sodium sulfate, filtered and concentrated in vacuo to yield Boc-D-Phe-Pro-OH (6.9 g).

reactant | Boc-D-Phe-Pro-OMe | 8.3 g | N([C@H](CC1=CC=CC=C1)C(=O)N1[C@H](C(=O)OC)CCC1)C(=O)OC(C)(C)C | C20H28N2O5
reactant | sodium hydroxide | 2M, 16.5 ml | [OH-].[Na+]
reactant | hydrogen chloride | 2M | Cl | ClH
solvent | heptane ethyl acetate | CCCCCCC.C(C)(=O)OCC
product | Boc-D-Phe-Pro-OH | 6.9 g | N([C@H](CC1=CC=CC=C1)C(=O)N1[C@H](C(=O)O)CCC1)C(=O)OC(C)(C)C | C19H26N2O5
